US07071175B1
Diethylamine (0.26 g, 2.67 mmol) was added a mixture of 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-4-methyl-pyridin-3-ylmethyl)-malonic acid monoethyl ester (1.0 g, 2.2 mmol) and 37% aq. solution of formaldehyde (0.24 g, 3.00 mmol) in methylene chloride (2 mL) at 0° C. The mixture was stirred for 16 h at room temperature and ethyl acetate was added. The organic layer was washed with water and 5% NaHCO3 and dried. Concentration under reduced pressure followed by flash chromatography (toluene/ethyl acetate, 3:1→1:1) gave 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-4-methyl-pyridin-3-ylmethyl)-acrylic acid ethyl ester (0.81 g, 88%).

reactant | Diethylamine | 2.67 mmol, 0.26 g | C(C)NCC | C4H11N
reactant | 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-4-methyl-pyridin-3-ylmethyl)-malonic acid monoethyl ester | 2.2 mmol, 1.0 g | C(C)OC(C(C(=O)O)CC=1C=NC(=CC1C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C22H32N2O8
reactant | formaldehyde | 3.00 mmol, 0.24 g | C=O | CH2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-4-methyl-pyridin-3-ylmethyl)-acrylic acid ethyl ester | 0.81 g, 88% | C(C)OC(C(=C)CC=1C=NC(=CC1C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C22H32N2O6
